US05665756
5-(1-(1H)-imidazolyl)-1-(4-trifluoromethylphenyl)-1-pentanone O-(2-aminoethyl)oxime dihydrochloride
A mixture of 5-(1-(1H)-imidazolyl)-1-(4-trifluoromethylphenyl)-1-pentanone (11.5 g), O-(2-aminoethyl)hydroxylamine dihydrochloride (5.78 g), 3 equivalents of pyridine, and absolute ethanol (75 ml) was heated under reflux, under nitrogen, with stirring, for three hrs. The reaction mixture was partitioned between 10% sodium hydroxide solution and ethyl acetate. The layers were separated and the aqueous phase extracted with ethyl acetate. The combined organic extracts were dried over anhydrous sodium sulfate, filtered, and the filtrate was evaporated. The residue was taken up in toluene and evaporated. The residue was purified by flash chromatography (180:19:1 dichloromethane/methanol/ammonium hydroxide). The appropriate fractions were collected and evaporated. The residue was dissolved in absolute ethanol and treated with ethereal hydrogen chloride. Diethyl ether was added. The precipitate was collected and recrystallized twice from absolute ethanol/ether to give 3.3 g (20%) of product, mp 115°-120° C. (dec).

reactant | 5-(1-(1H)-imidazolyl)-1-(4-trifluoromethylphenyl)-1-pentanone | 11.5 g | N1(C=NC=C1)CCCCC(=O)C1=CC=C(C=C1)C(F)(F)F | C15H15F3N2O
reactant | O-(2-aminoethyl)hydroxylamine dihydrochloride | 5.78 g | Cl.Cl.NCCON
reactant | pyridine | 3 equivalents | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 5-(1-(1H)-imidazolyl)-1-(4-trifluoromethylphenyl)-1-pentanone O-(2-aminoethyl)oxime dihydrochloride | 3.3 g, 20% | Cl.Cl.NCCON=C(CCCCN1C=NC=C1)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C17H21F3N4O.2ClH/c18-17(19,20)15-6-4-14(5-7-15)16(23-25-12-8-21)3-1-2-10-24-11-9-22-13-24;;/h4-7,9,11,13H,1-3,8,10,12,21H2;2*1H
